US04935430
5-(4-Cyanophenyl)-2,4-dimethylthiazole
A solution of 4-(1-bromo-2-oxopropyl)benzonitrile (0.9 g, 3.83 mmol) in toluene (2 ml) was treated with thioacetamide (0.6 g, 8 mmol) followed by pyridine (0.45 ml). The mixture was warmed to 100° C. for 1 hour, then partitioned between ethyl acetate and brine. The organic layer was dried (MgSO4) and evaporated to a yellow oil. Chromatography on silica gel, eluting with 5% ether in dichloromethane, afforded a pale yellow oil which crystallised (0.52 g, 64%), m.p. 108°-110° C.

reactant | 4-(1-bromo-2-oxopropyl)benzonitrile | 3.83 mmol, 0.9 g | BrC(C(C)=O)C1=CC=C(C#N)C=C1 | C10H8BrNO
reactant | thioacetamide | 8 mmol, 0.6 g | C(C)(=S)N | C2H5NS
reactant | pyridine | 0.45 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Cyanophenyl)-2,4-dimethylthiazole | C(#N)C1=CC=C(C=C1)C1=C(N=C(S1)C)C | C12H10N2S
